US09193725B2
To a stirred solution of 1-methyl-5-phenyl-1,4-dihydropyrimido[4,5-c]pyridazine (350 mg) in dry methanol (15.0 mL), sodium borohydride (296 mg, 7.81 mmol) was added slowly, followed by boric acid (480 mg) under nitrogen atmosphere at 0° C. The reaction mixture was stirred at room temperature for 24 hours and solvents were removed under reduced pressure. The resulting oil was diluted with dichloromethane (50 mL), washed with 10% NaHCO3 (10 mL) and brine (10 mL). The organic layer was dried over anhydrous Na2SO4 and concentrated to give a residue which was purified by column chromatography using EtOAc/hexane (1.4:8.6) as eluent to afford 1-methyl-5-phenyl-1,2,3,4-tetrahydropyrimido[4,5-c]pyridazine (130 mg) as gummy liquid. 1H NMR (DMSO-d6): δ 2.66-2.69 (t, 2H), 2.88-2.91 (t, 2H), 3.22 (s, 3H), 5.46-5.50 (t, 1H), 7.41-7.47 (m, 3H), 7.53-7.55 (m, 2H), 8.36 (s, 1H).

reactant | 1-methyl-5-phenyl-1,4-dihydropyrimido[4,5-c]pyridazine | 350 mg | CN1N=CCC2=C1N=CN=C2C2=CC=CC=C2 | C13H12N4
reactant | sodium borohydride | 7.81 mmol, 296 mg | [BH4-].[Na+]
reactant | boric acid | 480 mg | B(O)(O)O | BH3O3
solvent | methanol | 15.0 mL | CO | CH4O
product | 1-methyl-5-phenyl-1,2,3,4-tetrahydropyrimido[4,5-c]pyridazine | 130 mg | CN1NCCC2=C1N=CN=C2C2=CC=CC=C2 | C13H14N4
